US05356886
A solution of (E)-2-acetamido-9-[2-(t-butyldiphenylsilyloxy)methyl-4-(diisopropoxyphosphoryl)but-3-enyl]-6-chloropurine (330 mg, 473 μmol) in 7% methanolic hydrogen chloride (15 ml) was stirred at room temperature for 7 h. The solution was reduced to 1/3 volume then neutralised by addition of saturated sodium bicarbonate solution. The solvent was removed and the residue purified by column chromatography on silica gel eluting with dichloromethane-methanol (19:1, 6:1) to give (E)-2-amino-9-[4-(diisopropoxyphosphoryl)-2-(hydroxymethyl)but-3-enyl]-6-methoxypurine as a colourless gum (140 mg, 72%); λmax (EtOH) 249 (8,632) and 283 (9,086)nm; υmax (KBr) 3335, 2980, 1610, 1585, 1475, 1410, 1400 and 1250 cm-1 ; δH [(CD2)2SO] 1.10 (12H, m, CH(CH3)2), 3.02 (1H, m, CH), 3.50 (2H, t, J 5 Hz, CH2O), 3.94 (3H, s, CH3O), 4.10-4.40 (4H, m, CH2N and CH(CH3)2), 4.97 (1H, t, J 5 Hz, D2O exchangeable, OH), 5.61 (1H, dd, J 17 Hz and 20 Hz, PCH=CH), 6.43 (2H, br.s, D2O exchangeable, NH2), 6.50 (1H, ddd, J 8 Hz, 17 Hz and 22 Hz, PCH=CH), 7.80 (1H, s, H-8) (Found: MH+ 414. 1900). C17H28N5O5P requires MH+ 414.1906).

reactant | (E)-2-acetamido-9-[2-(t-butyldiphenylsilyloxy)methyl-4-(diisopropoxyphosphoryl)but-3-enyl]-6-chloropurine | 473 μmol, 330 mg | C(C)(=O)NC1=NC(=C2N=CN(C2=N1)CC(\C=C\P(=O)(OC(C)C)OC(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C34H45ClN5O5PSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrogen chloride | 15 ml | Cl | ClH
product | (E)-2-amino-9-[4-(diisopropoxyphosphoryl)-2-(hydroxymethyl)but-3-enyl]-6-methoxypurine | 140 mg, 72% | NC1=NC(=C2N=CN(C2=N1)CC(\C=C\P(=O)(OC(C)C)OC(C)C)CO)OC | C17H28N5O5P
